US06951870B2
(b) (6,7-Dihydroxy-2-oxo-2H-chromen-3-yl)-acetic acid
Boron tribromide (3 ml) was added to a solution of 2-(2,4,5-trimethoxy-benzylidene)-succinic acid 1-ethyl ester obtained from the previous step (a) (4 g) in dichloromethane (40 ml) at −20° C. under nitrogen atmosphere. The reaction was kept on ice for an hour and then at room temperature for three days. After water treatment , filtering and trituration with warm 2-propanol the product was filtered. Yield: 1.1 g

reactant | Boron tribromide | 3 ml | B(Br)(Br)Br | BBr3
reactant | 2-(2,4,5-trimethoxy-benzylidene)-succinic acid 1-ethyl ester | C(C)OC(C(CC(=O)O)=CC1=C(C=C(C(=C1)OC)OC)OC)=O | C16H20O7
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | (6,7-Dihydroxy-2-oxo-2H-chromen-3-yl)-acetic acid | OC=1C=C2C=C(C(OC2=CC1O)=O)CC(=O)O | C11H8O6
